US06921759B2
N-(4-fluorobenzyl)-8-hydroxy-5-(2-oxotetrahydropyrimidin-1(2H)-yl)-1,6-naphthyridine-7-carboxamide
To a mixture of tetrahydro-2-pyrimidone (0.040 g, 0.4 mmol), 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (0.050 g, 0.13 mmol), and Cu2O (0.0095 g, 0.07 mmol) under an atmosphere of argon was added pyridine (1.0 mL) and the suspension was stirred at reflux for 16 hr. Cu2O (0.005 g, 0.04 mmol) was added and the reaction heated at 115 C for a further 16 hr. The reaction was allowed to cool to room temperature and the solvent evaporated in vacuo. The residue was treated with DMF (2 mL) and filtered to remove the solids. TFA (0.5 mL) was added to the filtrate which was purified by reverse phase HPLC. (Waters PrePak 500 cartridge C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 75 mL/min over 45 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid.

reactant | tetrahydro-2-pyrimidone | 0.4 mmol, 0.040 g | N1C(NCCC1)=O | C4H8N2O
reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.13 mmol, 0.050 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-fluorobenzyl)-8-hydroxy-5-(2-oxotetrahydropyrimidin-1(2H)-yl)-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N2C(NCCC2)=O)C=C1 | C20H18FN5O3
